US07138413B1
3-Phenylpropyl 3-piperidinopropylether
Sodium 3-piperidinopropanolate (20 mmol), 20 mmol of 3-phenylpropyl bromide, and 0.5 mmol of 15-crown-5 in 30 ml of dry toluene were refluxed for 4 hours. The solvent was evaporated and the residue purified by column chromatography on silica gel (eluent: methylene chloride/methanol/aqueous ammonia (90/10/0.5)). After removing the solvent under reduced pressure the residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | Sodium 3-piperidinopropanolate | 20 mmol | N1(CCCCC1)CCC[O-].[Na+]
reactant | 3-phenylpropyl bromide | 20 mmol | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | 15-crown-5 | 0.5 mmol | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Phenylpropyl 3-piperidinopropylether | C1(=CC=CC=C1)CCCC(CCOCCC(CCCC1=CC=CC=C1)N1CCCCC1)N1CCCCC1 | C34H52N2O
